US05064833
4-(N-Methylphenylamino)-2-[(2-methylphenyl)amino1-6-hydroxyquinazoline hydrobromide
4-(N-Methylphenylamino)-2-[(2-methylphenyl)amino]6-methoxyquinazoline (prepared as described in co-pending EP-A-88311461.3) (3.0 g, 0.0074 mol) and boron tribromide (9.2 g, 0.037 mol) were reacted together under the conditions described in Example 3 to give the title compound (1.39 g), crystallised from methanol/diethyl ether as its hydrobromide salt, m.p. 172°-174°.

reactant | 4-(N-Methylphenylamino)-2-[(2-methylphenyl)amino]6-methoxyquinazoline | 0.0074 mol, 3.0 g | CN(C1=NC(=NC2=CC=C(C=C12)OC)NC1=C(C=CC=C1)C)C1=CC=CC=C1 | C23H22N4O
reactant | boron tribromide | 0.037 mol, 9.2 g | B(Br)(Br)Br | BBr3
product | 4-(N-Methylphenylamino)-2-[(2-methylphenyl)amino1-6-hydroxyquinazoline hydrobromide | 1.39 g | Br.CN(C1=NC(=NC2=CC=C(C=C12)O)NC1=C(C=CC=C1)C)C1=CC=CC=C1 | InChI=1S/C22H20N4O.BrH/c1-15-8-6-7-11-19(15)23-22-24-20-13-12-17(27)14-18(20)21(25-22)26(2)16-9-4-3-5-10-16;/h3-14,27H,1-2H3,(H,23,24,25);1H
